US06545016B1
Isobutyryl chloride (181 μL, 1.73 mmol) was added to a solution of 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine (0.435 g, 1.57 mol), triethylamine (280 μL, 2.04 mmol) and chloroform (8 mL). The reaction mixture as allowed to stir at ambient temperature for 4 hours then it was diluted with chloroform (20 mL) and washed with saturated sodium bicarbonate solution (10 mL). The organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography (30 g of silica gel eluting with 1 L of 2% methanol in chloroform containing 0.5% triethylamine) to provide 0.225 g of N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-2-methylpropanamide as a white powder, m.p. 170.5-172.5° C.

reactant | Isobutyryl chloride | 1.73 mmol, 181 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.57 mol, 0.435 g | NCCCCN1C(=NC=2C(=NC(=CC21)C)N)COCC | C14H23N5O
reactant | triethylamine | 2.04 mmol, 280 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-2-methylpropanamide | 0.225 g | NC1=NC(=CC2=C1N=C(N2CCCCNC(C(C)C)=O)COCC)C | C18H29N5O2
